************************************************************************
* auCdl Netlist:
* 
* Library Name:  Core_with_IOpad_opamp
* Top Cell Name: core_with_IO
* View Name:     schematic
* Netlisted on:  May 26 14:02:12 2026
************************************************************************

.INCLUDE  /home/project_staff/projects/test_proj/cds_master/SCLSL18_6M1L/ts018_scl_prim/cdlNetlist.header
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: OpAmpFinal
* Cell Name:    OpAmpSchematic
* View Name:    schematic
************************************************************************

.SUBCKT OpAmpSchematic Vdd Vin1 Vin2 Vout Vss
*.PININFO Vin1:I Vin2:I Vout:O Vdd:B Vss:B
MM17 Vout net1 Vdd Vdd P W=6.0 L=0.73 m=1.0
MM29 net49 net1 Vdd Vdd P W=0.24 L=0.24 m=1.0
MM30 net48 net1 Vdd Vdd P W=0.24 L=0.24 m=1.0
MM28 net1 net1 net49 Vdd P W=0.24 L=0.24 m=20.0
MM27 net12 net1 net48 Vdd P W=0.24 L=0.24 m=20.0
MM8 net43 Vin2 net45 Vdd P W=1.2 L=0.23 m=1.0
MM9 net47 Vin1 net45 Vdd P W=1.2 L=0.23 m=1.0
MM10 net45 net1 Vdd Vdd P W=4.0 L=0.98 m=1.0
MM3 net2 Vin1 net47 Vdd P W=0.3 L=0.6 m=1.0
MM2 net42 Vin2 net43 Vdd P W=0.3 L=0.6 m=1.0
MM22 net44 net12 Vss Vss N W=0.6 L=0.24 m=1.0
MM23 net12 net12 Vss Vss N W=0.24 L=0.24 m=1.0
MM26 net1 net44 net12 Vss N W=0.6 L=0.24 m=1.0
MM25 net1 net12 net41 Vss N W=0.24 L=0.24 m=10.0
MM5 net2 net42 Vss Vss N W=8.4 L=0.73 m=1.0
MM6 net42 net42 Vss Vss N W=8.4 L=0.73 m=1.0
MM1 Vout net2 Vss Vss N W=6.0 L=0.53 m=6.0
CC2 Vdd net44 $[CB] w=22.0 l=44.785 c=999.9627f m=1
CC1 Vout net2 $[CB] w=10.41 l=28.0 c=299.9302f m=1
RR0 net41 Vss 5M $[RC] $W=0.18 $L=615.78
.ENDS

************************************************************************
* Library Name: cio150
* Cell Name:    pvda
* View Name:    schematic
************************************************************************

.SUBCKT pvda VDD VDDO VSS VSSO
*.PININFO VDD:B VDDO:B VSS:B VSSO:B
.ENDS

************************************************************************
* Library Name: cio150
* Cell Name:    pv0a
* View Name:    schematic
************************************************************************

.SUBCKT pv0a VDD VDDO VSS VSSO
*.PININFO VDD:B VDDO:B VSS:B VSSO:B
.ENDS

************************************************************************
* Library Name: cio150
* Cell Name:    pc3d00
* View Name:    schematic
************************************************************************

.SUBCKT pc3d00 PAD PADR VDD VDD0 VSS VSS0
*.PININFO PAD:B PADR:B VDD:B VDD0:B VSS:B VSS0:B
.ENDS

************************************************************************
* Library Name: cio150
* Cell Name:    pvdi
* View Name:    schematic
************************************************************************

.SUBCKT pvdi VDD VDDO VSS VSSO
*.PININFO VDD:B VDDO:B VSS:B VSSO:B
.ENDS

************************************************************************
* Library Name: cio150
* Cell Name:    pv0i
* View Name:    schematic
************************************************************************

.SUBCKT pv0i VDD VDD0 VSS VSS0
*.PININFO VDD:B VDD0:B VSS:B VSS0:B
.ENDS

************************************************************************
* Library Name: IO_Pad_Ring_for_two_Stage_Opamp_new
* Cell Name:    io_pad
* View Name:    schematic
************************************************************************

.SUBCKT io_pad Ext_V_Inn Ext_V_Inp Ext_V_out VDD VDD0 VSS VSS0 V_Inn V_Inp 
+ V_out
*.PININFO Ext_V_Inn:B Ext_V_Inp:B Ext_V_out:B VDD:B VDD0:B VSS:B VSS0:B 
*.PININFO V_Inn:B V_Inp:B V_out:B
XI4 VDD VDD0 VSS VSS0 / pvda
XI5 VDD VDD0 VSS VSS0 / pv0a
XI9 V_Inn Ext_V_Inn VDD VDD0 VSS VSS0 / pc3d00
XI8 V_Inp Ext_V_Inp VDD VDD0 VSS VSS0 / pc3d00
XI10 V_out Ext_V_out VDD VDD0 VSS VSS0 / pc3d00
XI0 VDD VDD0 VSS VSS0 / pvdi
XI3 VDD VDD0 VSS VSS0 / pv0i
.ENDS

************************************************************************
* Library Name: Core_with_IOpad_opamp
* Cell Name:    core_with_IO
* View Name:    schematic
************************************************************************

.SUBCKT core_with_IO Ext_V_Inn Ext_V_Inp Ext_V_out VDD VDD0 VSS VSS0 Vin1 Vin2 
+ Vout
*.PININFO Ext_V_Inn:B Ext_V_Inp:B Ext_V_out:B VDD:B VDD0:B VSS:B VSS0:B Vin1:B 
*.PININFO Vin2:B Vout:B
XI0 VDD Vin1 Vin2 Vout VSS / OpAmpSchematic
XI3 Ext_V_Inn Ext_V_Inp Ext_V_out VDD VDD0 VSS VSS0 Vin2 Vin1 Vout / io_pad
.ENDS

