************************************************************************
* auCdl Netlist:
* 
* Library Name:  Core_with_IOpad_opamp
* Top Cell Name: core_with_IO
* View Name:     schematic
* Netlisted on:  May 25 19:58:43 2026
************************************************************************

*.BIPOLAR
*.RESI = 0 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: OpAmpFinal
* Cell Name:    OpAmpSchematic
* View Name:    schematic
************************************************************************

.SUBCKT OpAmpSchematic Vdd Vin1 Vin2 Vout Vss
*.PININFO Vin1:I Vin2:I Vout:O Vdd:B Vss:B
MM17 Vout net1 Vdd Vdd P W=6.0 L=0.73 m=1.0
MM29 net49 net1 Vdd Vdd P W=0.24 L=0.24 m=1.0
MM30 net48 net1 Vdd Vdd P W=0.24 L=0.24 m=1.0
MM28 net1 net1 net49 Vdd P W=0.24 L=0.24 m=20.0
MM27 net12 net1 net48 Vdd P W=0.24 L=0.24 m=20.0
MM8 net43 Vin2 net45 Vdd P W=1.2 L=0.23 m=1.0
MM9 net47 Vin1 net45 Vdd P W=1.2 L=0.23 m=1.0
MM10 net45 net1 Vdd Vdd P W=4.0 L=0.98 m=1.0
MM3 net2 Vin1 net47 Vdd P W=0.3 L=0.6 m=1.0
MM2 net42 Vin2 net43 Vdd P W=0.3 L=0.6 m=1.0
MM22 net44 net12 Vss Vss N W=0.6 L=0.24 m=1.0
MM23 net12 net12 Vss Vss N W=0.24 L=0.24 m=1.0
MM26 net1 net44 net12 Vss N W=0.6 L=0.24 m=1.0
MM25 net1 net12 net41 Vss N W=0.24 L=0.24 m=10.0
MM5 net2 net42 Vss Vss N W=8.4 L=0.73 m=1.0
MM6 net42 net42 Vss Vss N W=8.4 L=0.73 m=1.0
MM1 Vout net2 Vss Vss N W=6.0 L=0.53 m=6.0
CC2 Vdd net44 $[CB] w=22.0 l=44.785 c=999.9627f m=1
CC1 Vout net2 $[CB] w=10.41 l=28.0 c=299.9302f m=1
RR0 net41 Vss 5M $[RC] $W=0.18 $L=615.78
.ENDS

************************************************************************
* Library Name: cio150
* Cell Name:    pvda
* View Name:    schematic
************************************************************************

.SUBCKT pvda VDDO VDD VSS VSSO 
C3_5    VDDO    U30_U29_c2 L= 15.13U W=15.13U $[CH]
M4      VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M5      VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M6      VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M7      VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M8      VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M9      VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M10     VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M11     VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M12     VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M13     VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M14     VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M15     VDDO    U30_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M16     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M17     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M18     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M19     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M20     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M21     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M22     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M23     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M24     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M25     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M26     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M27     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
D30     VSS     VSSO    P3  119.7900P 257.5800U 
D31     VSSO    VSS     P3  119.7900P 257.5800U 
R2      U30_U29_c2 U30_U18_r2 8.2500K $[RW]  W=2.1U L=14.6U
R3      U30_U18_r2 VSSO    8.2500K $[RW]  W=2.1U L=14.6U
R28     VDDO    U19_U18_r2 8.2500K $[RW]  W=2.1U L=14.6U
R29     U19_U18_r2 U19_U22$11_gate 8.2500K $[RW]  W=2.1U L=14.6U

.ENDS pvda

************************************************************************
* Library Name: cio150
* Cell Name:    pv0a
* View Name:    schematic
************************************************************************

.SUBCKT pv0a VSSO VDD VSS VDDO 
C4_5    VDDO    U31_U29_c2 L= 15.13U W=15.13U $[CH]
M4      VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M5      VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M6      VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M7      VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M8      VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M9      VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M10     VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M11     VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M12     VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M13     VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M14     VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M15     VDDO    U31_U29_c2 VSSO    VSSO    NH   L=.4000U  W=30.0000U  
M16     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M17     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M18     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M19     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M20     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M21     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M22     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M23     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M24     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M25     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M26     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
M27     VSSO    U19_U22$11_gate VDDO    VDDO    PH   L=.4000U  
+  W=40.0000U  
D30     VSS     VSSO    P3  119.7900P 257.5800U 
D31     VSSO    VSS     P3  119.7900P 257.5800U 
R2      U31_U29_c2 U31_U18_r2 8.2500K $[RW]  W=2.1U L=14.6U
R3      U31_U18_r2 VSSO    8.2500K $[RW]  W=2.1U L=14.6U
R28     VDDO    U19_U18_r2 8.2500K $[RW]  W=2.1U L=14.6U
R29     U19_U18_r2 U19_U22$11_gate 8.2500K $[RW]  W=2.1U L=14.6U

.ENDS pv0a

************************************************************************
* Library Name: cio150
* Cell Name:    pc3d00
* View Name:    schematic
************************************************************************

.SUBCKT pc3d00 PAD PADR VDD VSS VDDO VSSO 
M1      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M2      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M3      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M4      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M5      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M6      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M7      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M8      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M9      VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M10     VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M11     VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M12     VDDO    U18_U79$3_gate PAD     VDDO    PH   L=.4000U  
+  W=52.0000U  
M18     PADR    U18_U82_gate VSS     VSS     NH   L=.4000U  W=30.0000U 
+   
M19     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M20     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M21     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M22     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M23     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M24     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M25     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M26     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M27     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M28     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M29     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
M30     PAD     U18_U74$11_gate VSSO    VSSO    NH   L=.5000U  
+  W=30.0000U  
D31     VSSO    VSS     P3  93.1700P 200.3400U 
D32     VSS     VSSO    P3  93.1700P 200.3400U 
R13     U18_U13_r1 PADR      302.0000 $[RE] W=4U L=2.5U
R14     PAD     U18_U13_r1   302.0000 $[RE] W=4U L=2.5U
R15     U18_U82_gate VSS       1.1900K $[RW] W=2.1U L=2.1U
R16     U18_U74$11_gate VSSO      4.8910K $[RW]  W=2.1U L=8.65U
R17     VDDO    U18_U79$3_gate   4.8910K $[RW] W=2.1U L=8.65U

.ENDS pc3d00

************************************************************************
* Library Name: cio150
* Cell Name:    pvdi
* View Name:    schematic
************************************************************************

.SUBCKT pvdi VDD VSS VDDO VSSO 
C8_1    VDD U31_U18_r1     L= 15.13U W=15.13U $[CH]
M3      VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M4      VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M5      VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M6      VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M7      VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M8      VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M9      VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M10     VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M11     VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M12     VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M13     VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M14     VSS     U32_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M18     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M19     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M20     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M21     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M22     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M23     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M24     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M25     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M26     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M27     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M28     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
M29     VDD     U31_U18_r1 VSSO    VSSO   N   L=.2500U  W=30.0000U  
D30     VSSO    VSS     P3  119.7900P 257.5800U 
D31     VSS     VSSO    P3  119.7900P 257.5800U 
R1      U32_U31_r1 U32_U31_r2   8.2500K $[RW] W=2.1U L=14.6U
R2      VDD     U32_U31_r1   8.2500K $[RW] W=2.1U L=14.6U
R15     U31_U31_r1 VSS       8.2500K $[RW]  W=2.1U L=14.6U
R16     U31_U18_r1 U31_U31_r1   8.2500K $[RW] W=2.1U L=14.6U

.ENDS pvdi

************************************************************************
* Library Name: cio150
* Cell Name:    pv0i
* View Name:    schematic
************************************************************************

.SUBCKT pv0i VSS VDD VDDO VSSO 
C8_1    VDD U31_U18_r1     L= 15.13U W=15.13U $[CH]
M3      VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M4      VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M5      VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M6      VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M7      VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M8      VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M9      VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M10     VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M11     VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M12     VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M13     VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M14     VSS     U33_U31_r2 VDD     VDD    P   L=.2500U  W=40.0000U  
M18     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M19     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M20     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M21     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M22     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M23     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M24     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M25     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M26     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M27     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M28     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
M29     VDD     U31_U18_r1 VSS     VSS    N   L=.2500U  W=30.0000U  
D30     VSSO    VSS     P3  119.7900P 257.5800U 
D31     VSS     VSSO    P3  119.7900P 257.5800U 
R1      U33_U31_r1 U33_U31_r2   8.2500K $[RW] W=2.1U L=14.6U
R2      VDD     U33_U31_r1   8.2500K $[RW] W=2.1U L=14.6U
R15     U31_U31_r1 VSS       8.2500K $[RW] W=2.1U L=14.6U
R16     U31_U18_r1 U31_U31_r1   8.2500K $[RW] W=2.1U L=14.6U

.ENDS pv0i

************************************************************************
* Library Name: IO_Pad_Ring_for_two_Stage_Opamp_new
* Cell Name:    io_pad
* View Name:    schematic
************************************************************************

.SUBCKT io_pad Ext_V_Inn Ext_V_Inp Ext_V_out VDD VDD0 VSS VSS0 V_Inn V_Inp 
+ V_out
*.PININFO Ext_V_Inn:B Ext_V_Inp:B Ext_V_out:B VDD:B VDD0:B VSS:B VSS0:B 
*.PININFO V_Inn:B V_Inp:B V_out:B
XI4 VDD VDD0 VSS VSS0 / pvda
XI5 VDD VDD0 VSS VSS0 / pv0a
XI9 V_Inn Ext_V_Inn VDD VDD0 VSS VSS0 / pc3d00
XI8 V_Inp Ext_V_Inp VDD VDD0 VSS VSS0 / pc3d00
XI10 V_out Ext_V_out VDD VDD0 VSS VSS0 / pc3d00
XI0 VDD VDD0 VSS VSS0 / pvdi
XI3 VDD VDD0 VSS VSS0 / pv0i
.ENDS

************************************************************************
* Library Name: Core_with_IOpad_opamp
* Cell Name:    core_with_IO
* View Name:    schematic
************************************************************************

.SUBCKT core_with_IO Ext_V_Inn Ext_V_Inp Ext_V_out VDD VDD0 VSS VSS0 Vin1 Vin2 
+ Vout
*.PININFO Ext_V_Inn:B Ext_V_Inp:B Ext_V_out:B VDD:B VDD0:B VSS:B VSS0:B Vin1:B 
*.PININFO Vin2:B Vout:B
XI0 VDD Vin1 Vin2 Vout VSS / OpAmpSchematic
XI3 Ext_V_Inn Ext_V_Inp Ext_V_out VDD VDD0 VSS VSS0 Vin2 Vin1 Vout / io_pad
.ENDS

